US08372837B2
Step A. Preparation of tert-butyl 4-hydroxy-2-methylpiperidine-1-carboxylate
To a solution of tert-butyl 2-methyl-4-oxopiperidine-1-carboxylate (727 mg, 3.41 mmol, Small Molecules Inc.) in MeOH (6.0 mL) at 0° C. was added sodium borohydride (193 mg, 5.11 mmol, Aldrich) in several portions. The reaction mixture was stirred at 0° C. for 1 hr and warmed up to room temperature and continuously stirred for another 2.5 hrs. The resulting mixture was then quenched with saturated NH4Cl aqueous solution and evaporated under reduced pressure to remove MeOH followed by extraction with CH2Cl2 (3×). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the title compound (745 mg) as a colorless sticky oil which was used without further purification.

reactant | tert-butyl 2-methyl-4-oxopiperidine-1-carboxylate | 3.41 mmol, 727 mg | CC1N(CCC(C1)=O)C(=O)OC(C)(C)C | C11H19NO3
reactant | sodium borohydride | 5.11 mmol, 193 mg | [BH4-].[Na+]
solvent | MeOH | 6.0 mL | CO | CH4O
product | tert-butyl 4-hydroxy-2-methylpiperidine-1-carboxylate | 745 mg | OC1CC(N(CC1)C(=O)OC(C)(C)C)C | C11H21NO3
